US07705034B2
Using general procedure C, 2-methyl-2-phenyl-cyclobutane-1,3-dione (Lit. 1) was reacted with benzaldehyde and N-(6-methyl-1H-indol-3-ylmethyl)-acetamide to give N-{2-[(2-hydroxy-3-methyl-4-oxo-3-phenyl-cyclobut-1-enyl)-phenyl-methyl]-6-methyl-1H-indol-3-ylmethyl}-acetamide as a pale red solid. MS: 463.4 ([M−H]−).

reactant | 2-methyl-2-phenyl-cyclobutane-1,3-dione | CC1(C(CC1=O)=O)C1=CC=CC=C1 | C11H10O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | N-(6-methyl-1H-indol-3-ylmethyl)-acetamide | CC1=CC=C2C(=CNC2=C1)CNC(C)=O | C12H14N2O
product | N-{2-[(2-hydroxy-3-methyl-4-oxo-3-phenyl-cyclobut-1-enyl)-phenyl-methyl]-6-methyl-1H-indol-3-ylmethyl}-acetamide | OC1=C(C(C1(C1=CC=CC=C1)C)=O)C(C=1NC2=CC(=CC=C2C1CNC(C)=O)C)C1=CC=CC=C1 | C30H28N2O3
